US06002008
N-{4-[(3-Bromophenyl)amino]-3-cyano-8-dimethylaminomethyl-6-quinolinyl}acetamide
To a stirred mixture of 6-amino-4-[(3-bromophenyl)amino]-8-dimethylaminomethyl-3-quinolinecarbonitrile (0.20 g, 0.50 mmol) and 1.5 ml of acetic acid at 25° C. was added 0.14 ml (1.5 mmol) of acetic anhydride. After 60 m volatile matter was evaporated off under vacuum. The residue was stirred with sodium bicarbonate solution. The resulting solid was filtered off, washed with water, dried, and recrystallized from isopropanol-hexane to give a light yellow solid, mp 162-167° C.

reactant | 6-amino-4-[(3-bromophenyl)amino]-8-dimethylaminomethyl-3-quinolinecarbonitrile | 0.50 mmol, 0.20 g | NC=1C=C2C(=C(C=NC2=C(C1)CN(C)C)C#N)NC1=CC(=CC=C1)Br | C19H18BrN5
reactant | acetic anhydride | 1.5 mmol, 0.14 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | N-{4-[(3-Bromophenyl)amino]-3-cyano-8-dimethylaminomethyl-6-quinolinyl}acetamide | BrC=1C=C(C=CC1)NC1=C(C=NC2=C(C=C(C=C12)NC(C)=O)CN(C)C)C#N | C21H20BrN5O
